*****************************************************************
* NXP PSMN3R8_30LL
*
* Polarity N-Channel
* Ratings 30V/3.70E-03OHMS/15A
*
* Date Created Thu Jul 29 03:14:43 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R8_30LL DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.2513272
RLD1 5 4 0.0001
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.0005

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00165970293074376 TC=0.00534792404251358,2.47161197257572e-05
RBD 9 4 0.00101248117503598 TC=0.00534792404251358,2.47161197257572e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 20000000000
CGS 2 6 1.85e-09
RG 1 2 0.780601613584367

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2253
+ -5	2235
+ -2	2052
+ -1	1538
+ -0.5	1142
+ -0.2	977
+ -0.1	919
+ 0	862
+ 0.1	785
+ 0.2	714
+ 0.5	553
+ 1	421
+ 2	337
+ 5	262
+ 10	202
+ 12	191


.MODEL MINT NMOS(Vto=2.23 Kp=1.9e+02 Nfs=700000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=35.00 Ibv=2.50E-04 Rs=1E-6 Is=1.39195904977844e-12
+ N=1 M=0.63 VJ=0.61 Fc=0.5 Cjo=1.513e-09 Tt=3.555e-08)

.ENDS